US09227966B2
NaH (60% in mineral oil, 300 mg) was added in 3 equal portions to a cooled 0° C. solution of 5-bromo-2,3-dimethoxyphenol (1.16 g) in DMF (10 mL) After 20 minutes, benzyl bromide (0.9 ml) was added, and the reaction mixture was allowed to warm to room temperature and stir overnight. The reaction mixture was then poured into 100 mL of water and extracted with ethyl acetate (4×50 mL). The combined organic layer was then washed with water (4×75 mL) followed by brine (75 mL) and then dried over sodium sulfate and concentrated under vacuum. Chromatography on silica with 5% ethyl acetate/hexane provided 3-benzyloxy-4,5-dimethoxybromobenzene as a colorless oil (1.4 g). 1H NMR (400 MHz) (CDCl3) δ 3.87 (s, 6H), 5.12 (s, 2H), 6.75 (s, 1H), 6.80 (s, 1H), 7.34-7.47 (m, 5H).

reactant | NaH | 300 mg | [H-].[Na+]
reactant | 5-bromo-2,3-dimethoxyphenol | 1.16 g | BrC=1C=C(C(=C(C1)O)OC)OC | C8H9BrO3
reactant | benzyl bromide | 0.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-benzyloxy-4,5-dimethoxybromobenzene | 1.4 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1OC)OC)Br | C15H15BrO3
